datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COCC1=C(C(=O)[O-:10])C2C=CC1C2.O=[N+](c1ccccc1)[O:21][H:20]>>COCC1=C(C(=O)[O:10][H:20])C2C=CC1C2.O=[N+](c1ccccc1)[O-:21] 10=20;20,21=21",
"CC(=O)NS(=O)(=O)c1ccc([NH2:10])cc1.Cc1cc(N)nc(Nc2ccc(Cl)cc2)[n+:21]1[H:20]>>CC(=O)NS(=O)(=O)c1ccc([NH2+:10][H:20])cc1.Cc1cc(N)nc(Nc2ccc(Cl)cc2)[n:21]1 10=20;20,21=21",
"CC(=O)OC1C[N:10]2CCC1CC2.Cc1ccc(C(=O)[O:21][H:20])cc1[N+](=O)[O-]>>CC(=O)OC1C[N+:10]2([H:20])CCC1CC2.Cc1ccc(C(=O)[O-:21])cc1[N+](=O)[O-] 10=20;20,21=21",
"Cc1cc(C)c([NH2+:21][H:20])c(C)c1.Cc1ccc(CC[NH2:10])cc1>>Cc1cc(C)c([NH2:21])c(C)c1.Cc1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CCC(Oc1ccccc1C)C(=O)[O:21][H:20].FC(F)(F)c1cccc([N-:10]C=S)c1>>CCC(Oc1ccccc1C)C(=O)[O-:21].FC(F)(F)c1cccc([N:10](C=S)[H:20])c1 10=20;20,21=21",
"COC(=O)C1=CN([NH2+:21][H:20])C(=O)C(Br)=C1.C[NH+](C)CCc1nnn[n-:10]1>>COC(=O)C1=CN([NH2:21])C(=O)C(Br)=C1.C[NH+](C)CCc1nnn[n:10]1[H:20] 10=20;20,21=21",
"COC(O)(C(F)(F)F)[O-:10].C[NH+](C)CCC[N+:21](C)(C)[H:20]>>COC(O)(C(F)(F)F)[O:10][H:20].C[NH+](C)CCC[N:21](C)C 10=20;20,21=21",
"CC(C)O[O-:10].O=C(O)c1ccc[o+:21]1[H:20]>>CC(C)O[O:10][H:20].O=C(O)c1ccc[o:21]1 10=20;20,21=21",
"CC(C)[NH+:21](CC(=O)[O-])[H:20].CCC(=O)[N-:10]OC(=O)/C=C/c1ccccc1>>CC(C)[NH:21]CC(=O)[O-].CCC(=O)[N:10](OC(=O)/C=C/c1ccccc1)[H:20] 10=20;20,21=21",
"CCCCc1c([O-])nc(NCC)[n+:21]([H:20])c1C.CN1N=C(c2ccccc2)C=C/C1=[N:10]/CCN1CCOCC1>>CCCCc1c([O-])nc(NCC)[n:21]c1C.CN1N=C(c2ccccc2)C=C/C1=[N+:10](/CCN1CCOCC1)[H:20] 10=20;20,21=21",
"Cc1cccc(N)[n+:21]1[H:20].c1nc(Cc2c[nH]c(Cc3nc(Cc4c[n:10]c[nH]4)c[nH]3)[nH+]2)c[nH]1>>Cc1cccc(N)[n:21]1.c1nc(Cc2c[nH]c(Cc3nc(Cc4c[n+:10]([H:20])c[nH]4)c[nH]3)[nH+]2)c[nH]1 10=20;20,21=21",
"CCCCOC(=O)c1ccc[n+]([O-:10])c1.[NH3+]c1ccc(O)c([NH2+:21][H:20])c1>>CCCCOC(=O)c1ccc[n+]([O:10][H:20])c1.[NH3+]c1ccc(O)c([NH2:21])c1 10=20;20,21=21",
"C[NH:10]CC[S-].Cc1cccc(C(C)C)c1[O:21][H:20]>>C[NH+:10](CC[S-])[H:20].Cc1cccc(C(C)C)c1[O-:21] 10=20;20,21=21",
"CC[N:10](C)CCCNC(=O)/C=N/[O-].CN[C@@H]1C[C@@H]1[NH+:21](C)[H:20]>>CC[N+:10](C)(CCCNC(=O)/C=N/[O-])[H:20].CN[C@@H]1C[C@@H]1[NH:21]C 10=20;20,21=21",
"CC(C(O)c1ccccc1)[N:10](C)C.CCOC(=O)c1c[n+:21]([H:20])c2ccccc2c1OCC>>CC(C(O)c1ccccc1)[N+:10](C)(C)[H:20].CCOC(=O)c1c[n:21]c2ccccc2c1OCC 10=20;20,21=21",
"COc1ccc[n+:21]([H:20])c1C=O.O=C([C@]12C[NH2+]CC[C@H]1O2)[O-:10]>>COc1ccc[n:21]c1C=O.O=C([C@]12C[NH2+]CC[C@H]1O2)[O:10][H:20] 10=20;20,21=21",
"COc1ccc(C=O)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].Fc1ccc([NH2:10])cc1>>COc1ccc(C=O)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.Fc1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"C#CCCC[NH2:10].COc1ccc(C(=S)[N:21](c2ccc(C)cc2)[H:20])cc1>>C#CCCC[NH2+:10][H:20].COc1ccc(C(=S)[N-:21]c2ccc(C)cc2)cc1 10=20;20,21=21",
"C1CC[NH+](CC[N:10]2CCCCC2)CC1.COC(C(F)(F)F)=[O+:21][H:20]>>C1CC[NH+](CC[N+:10]2([H:20])CCCCC2)CC1.COC(C(F)(F)F)=[O:21] 10=20;20,21=21",
"CCOc1cccc(C(=O)[O:21][H:20])c1C.Nc1cc[n:10]c(-c2cc(Cl)ccn2)c1>>CCOc1cccc(C(=O)[O-:21])c1C.Nc1cc[n+:10]([H:20])c(-c2cc(Cl)ccn2)c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCC#CC#CCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCC#CC#CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCC(=O)[O:21][H:20].O=S1(=O)OC(c2cc(Br)c(O)c(Br)c2)(c2cc(Br)c([O-:10])c(Br)c2)c2ccccc21>>CCC(=O)[O-:21].O=S1(=O)OC(c2cc(Br)c(O)c(Br)c2)(c2cc(Br)c([O:10][H:20])c(Br)c2)c2ccccc21 10=20;20,21=21",
"CC[NH+](CC)[C@H]1CCC[C@@H]1[N+:21](C)(C)[H:20].NC(=O)Nc1ncnc2nc[n-:10]c12>>CC[NH+](CC)[C@H]1CCC[C@@H]1[N:21](C)C.NC(=O)Nc1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"COc1ccc(Cl)c2ccc[n+:21]([H:20])c12.Cn1cc[n:10]c1N=[N+]=[N-]>>COc1ccc(Cl)c2ccc[n:21]c12.Cn1cc[n+:10]([H:20])c1N=[N+]=[N-] 10=20;20,21=21",
"COc1cc(C)nc(NN)[n:10]1.C[NH+](C)CCCCCNc1c2ccccc2[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>COc1cc(C)nc(NN)[n+:10]1[H:20].C[NH+](C)CCCCCNc1c2ccccc2[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"C/C=C/C1=C([O-:10])C(=O)c2ccccc2C1=O.Cc1nnc(NS(=O)(=O)c2ccc([NH2+:21][H:20])cc2)s1>>C/C=C/C1=C([O:10][H:20])C(=O)c2ccccc2C1=O.Cc1nnc(NS(=O)(=O)c2ccc([NH2:21])cc2)s1 10=20;20,21=21",
"CCOCC[NH+:21](c1ccc(Cl)cc1)[H:20].O=C(/C(=N\[O-:10])c1ccccc1)c1ccccc1>>CCOCC[NH:21]c1ccc(Cl)cc1.O=C(/C(=N\[O:10][H:20])c1ccccc1)c1ccccc1 10=20;20,21=21",
"Nc1ccc(Oc2ccc([NH2:10])cc2)cc1.c1cc[n+:21]([H:20])c(-c2cc[nH+]cc2)c1>>Nc1ccc(Oc2ccc([NH2+:10][H:20])cc2)cc1.c1cc[n:21]c(-c2cc[nH+]cc2)c1 10=20;20,21=21",
"CCC(O)C[N+:21](CC)(CC(O)CC)[H:20].O=C(/C=C/c1ccco1)[O-:10]>>CCC(O)C[N:21](CC)CC(O)CC.O=C(/C=C/c1ccco1)[O:10][H:20] 10=20;20,21=21",
"CCCCC[NH:10]c1ccccc1.Cc1cc2ccccc2[n+:21]([H:20])c1>>CCCCC[NH+:10](c1ccccc1)[H:20].Cc1cc2ccccc2[n:21]c1 10=20;20,21=21",
"Cc1ccc2c(c1[O-])-c1c-2ccc(C)c1[O-:10].[NH3+]C(CCC(=O)[O:21][H:20])C(=O)[O-]>>Cc1ccc2c(c1[O-])-c1c-2ccc(C)c1[O:10][H:20].[NH3+]C(CCC(=O)[O-:21])C(=O)[O-] 10=20;20,21=21",
"Nc1cc[n+]([O-:10])cc1.O=C1OC(=O)[N:21]([H:20])c2ccccc21>>Nc1cc[n+]([O:10][H:20])cc1.O=C1OC(=O)[N-:21]c2ccccc21 10=20;20,21=21",
